US07691893B2
Preparation 12: [(3-bromo-3-buten-1-yl)oxy](1,1-dimethylethyl)diphenylsilane (P12)
The title compound was prepared in 8.7 g yield as a colourless oil, following an analogous procedure to that reported in WO2005058884, starting from 3-bromo-3-buten-1-ol (4 g), chloro(1,1-dimethylethyl)diphenylsilane (8.27 ml), imidazole (2.34 g) and N,N-dimethyl-4-pyridineamine (0.025 g).

reactant | 3-bromo-3-buten-1-ol | 4 g | BrC(CCO)=C | C4H7BrO
reactant | chloro(1,1-dimethylethyl)diphenylsilane | 8.27 ml | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C16H19ClSi
reactant | imidazole | 2.34 g | N1C=NC=C1 | C3H4N2
catalyst | N,N-dimethyl-4-pyridineamine | 0.025 g | CN(C1=CC=NC=C1)C | C7H10N2
product | [(3-bromo-3-buten-1-yl)oxy](1,1-dimethylethyl)diphenylsilane | BrC(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C | C20H25BrOSi
